US05962694
4-Chloro-3-(4-chloro-2-fluoro-5-di(ethoxy)methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (No. 1b.002)
20 ml of triethyl orthoformate and 0.1 g of toluenesulfonic acid were added to a solution of 3 g (8.8 mmol) of 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde in 50 ml of tetrahydrofuran. After the mixture had been refluxed for 2 hours, it was treated with 3 ml of triethylamine. The mixture was subsequently concentrated. The residue was treated with 50 ml of water. The product was subsequently extracted from the aqueous phase using ethyl acetate. The organic phase was then washed using saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and finally concentrated. The crude product was purified by means of column chromatography on silica gel (eluent: hexane/ethyl acetate=9:1). Yield: 1 g.

reactant | triethyl orthoformate | 20 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | toluenesulfonic acid | 0.1 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde | 8.8 mmol, 3 g | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H7Cl2F3N2O2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Chloro-3-(4-chloro-2-fluoro-5-di(ethoxy)methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)C(OCC)OCC)Cl)F | C16H17Cl2F3N2O3
